US08192918B2
A solution of 25 g (135.1 mmol) N,N-dimethylammonium iodide and 11.91 g (54.1 mmol) 2,2-dimethyl-5-phenyl-[1,3]dioxane-4,6-dione in 585 ml abs. methanol was heated to 65° C. and the reaction was allowed to continue over night at 65° C. The reaction mixture was allowed to cool down to room temperature and the solvent was removed under reduced pressure. The residue was treated with diethyl ether, extracted with a satured NaHCO3 solution and brine and dried over MgSO4. The solvent was removed under reduced pressure and 9.01 g (quant.) of 2-phenyl acrylic acid methyl ester was isolated as a colourless oil. The compound was used without further purification.

reactant | N,N-dimethylammonium iodide | 135.1 mmol, 25 g | [I-].C[NH2+]C
reactant | 2,2-dimethyl-5-phenyl-[1,3]dioxane-4,6-dione | 54.1 mmol, 11.91 g | CC1(OC(C(C(O1)=O)C1=CC=CC=C1)=O)C | C12H12O4
solvent | methanol | CO | CH4O
product | 2-phenyl acrylic acid methyl ester | 9.01 g | COC(C(=C)C1=CC=CC=C1)=O | C10H10O2
